US07488848B2
A mixture of 3-(pyridin-3-ylmethanesulfonyl)-2-(R)[2,2,2-trifluoro-1(s)-(4-fluorophenyl)ethylamino]propionic acid (420 mg, 1 mmol), 3(S)-amino-2-hydroxyhexanoic acid cyclopropylamide (186 mg, 1 mmol) prepared as described in PCT application publication No. WO-02/18369 as compound xiii, HBTU (455 mg, 1.2 mmol), and NMM (0.44 mL, 4 mmol) in acctonitrile was stirred at room temperature overnight. Sat. NH4Cl (10 mL) and ethyl acetate (10 mL) were added and after 20 min the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine and dried with MgSO4, filtered and the filtrated was concentrated under the reduced pressure to give 2-hydroxy-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)-ethylamino]propionylamino}-hexanoic acid cyclopropylamide which was used in the next step without further purification.

reactant | 3-(pyridin-3-ylmethanesulfonyl)-2-(R)[2,2,2-trifluoro-1(s)-(4-fluorophenyl)ethylamino]propionic acid | 1 mmol, 420 mg | N1=CC(=CC=C1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F | C17H16F4N2O4S
reactant | 3(S)-amino-2-hydroxyhexanoic acid cyclopropylamide | 1 mmol, 186 mg | C1(CC1)NC(C([C@H](CCC)N)O)=O | C9H18N2O2
reactant | HBTU | 1.2 mmol, 455 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 4 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)-ethylamino]propionylamino}-hexanoic acid cyclopropylamide | C1(CC1)NC(C([C@H](CCC)NC([C@H](CS(=O)(=O)CC=1C=NC=CC1)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O)O)=O | C26H32F4N4O5S
